US07781451B2
A solution of the title C compound, 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid ethyl ester (5 g, 0.013 mol) in 40 mL of methanol and 60 mL of water is treated with 1 g (0.027 mol) of sodium hydroxide and the reaction is stirred at 25° C. for 6 h. The reaction mixture is concentrated under vacuum, and the residue is re-dissolved in water and extracted with diethyl ether (50 mL). The aqueous layer is then acidified to pH 1 with 1 N aqueous hydrochloric acid solution. This solution is extracted with ethyl acetate (2×100 mL). The organic layer is washed with water and brine, dried over sodium sulfate and then filtered and evaporated under vacuum to give 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid as a white solid.

reactant | 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid ethyl ester | 0.013 mol, 5 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)CC(C)=O)=O | C19H26O5S
reactant | sodium hydroxide | 0.027 mol, 1 g | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | 3-cyclopentyl-2-[4-(2-oxo-propylsulfonyl)-phenyl]-propionic acid | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)CC(C)=O | C17H22O5S
